US06172057B2
1-Benzyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-benzyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester (5.1 g, 11.1 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (10 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.66 g (56%); off white solid; mp 210° C.; MS: 432 (M+H)+.

reactant | 1-benzyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | 11.1 mmol, 5.1 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C25H33NO5S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 10 ml | [OH-].[Na+]
product | 1-Benzyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C23H29NO5S
